US06897231B2
A. [3-(4-Fluorophenyl)(1H-indazol-5-yl)]-N-(2-hydroxyethyl)carboxamide
The title compound was prepared as described in Example 76. To a solution of 3-(4-fluorophenyl)-1H-indazole-5-carboxylic acid (0.200 g, 0.781 mmol) in tetrahydrofuran (5 mL) was added 1-hydroxybenzotriazole hydrate (0.316 g, 2.34 mmol) followed by 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.449 g, 2.34 mmol), ethanolamine (0.141 mL, 2.34 mmol) and N,N-dimethylformamide (2 mL). The solution was stirred for 16 h at room temperature. Water (40 mL) was added and the solid was filtered and dried in a vacuum oven which gave the title compound (0.161 g, 69% yield): 1H NMR (DMSO-d6) δ 13.45 (s, 1H), 8.61 (t, 1H), 8.56 (s, 1H), 8.08 (AB quartet, 2H), 7.93 (dd, 1H), 7.62 (d, 1H), 7.40 (t, 2H), 4.76 (t, 1H), 3.54 (q, 2H), 3.80 (q, 2H); ES-MS (m/z) 300 [M+1]+.

reactant | 3-(4-fluorophenyl)-1H-indazole-5-carboxylic acid | 0.781 mmol, 0.200 g | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C(=O)O | C14H9FN2O2
reactant | 1-hydroxybenzotriazole hydrate | 2.34 mmol, 0.316 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.34 mmol, 0.449 g | Cl.CN(CCCN=C=NCC)C
reactant | ethanolamine | 2.34 mmol, 0.141 mL | C(O)CN | C2H7NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | Water | 40 mL | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | [3-(4-Fluorophenyl)(1H-indazol-5-yl)]-N-(2-hydroxyethyl)carboxamide | 0.161 g, 69% yield | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C(=O)NCCO | C16H14FN3O2
